US07700641B2
Synthesis of 5-bromo-1′-(diphenylmethyl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in Example 1, and making non-critical variations using 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (72%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.43-7.25 (m, 11H), 7.14-6.93 (m, 4H), 6.83 (d, 1H), 6.71 (d, 1H), 6.52 (d, 1H), 5.0 (d, 1H), 4.73 (d, 1H); MS (ES+) m/z 484.4 (M+1), 482.4 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO)O | C28H22BrNO3
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 5-bromo-1′-(diphenylmethyl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO2 | C28H20BrNO2
